US07868014B2
Add 4-chloro-2-trifluoromethyl-benzonitrile to formic acid (96%) (15 mL) and water (3 mL). Add nickel-aluminum alloy (1260 mg). Heat at 100° C. overnight. Dilute with ethyl acetate and filter through Celite®. Extract the filtrate with 1 N sodium hydroxide and saturated aqueous sodium chloride, dry (sodium sulfate), filter, and concentrate to give 4-chloro-2-trifluoromethylbenzaldehyde (555 mg, 87%): 1H NMR (400 MHz, MeOH-d4) δ 10.29 (m, 1H), 8.10 (d, 1H, J=8.4 Hz), 7.91 (d, 1H, J=1.6 Hz), 7.85 (dd, 1H, J=8.4, 1.6 Hz).

reactant | 4-chloro-2-trifluoromethyl-benzonitrile | ClC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3ClF3N
reactant | formic acid | 15 mL | C(=O)O | CH2O2
reactant | water | 3 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | nickel-aluminum alloy | 1260 mg | [Al].[Ni]
product | 4-chloro-2-trifluoromethylbenzaldehyde | 555 mg, 87% | ClC1=CC(=C(C=O)C=C1)C(F)(F)F | C8H4ClF3O
